US07402580B2
8-phenyl-2,3,4,6-tetrahydropyrido[2,3-d]pyridazin-5(1H)-one
Under an atmosphere of hydrogen, a mixture of 8-phenylpyrido[2,3-d]pyridazin-5(6H)-one (100 mg; It was prepared by the same procedure as described in Reference example 1→Example 1 using furo[3,4-b]pyridine-5,7-dione instead of 4,5,6,7-tetrahydro-2-benzofuran-1,3-dione, and phenylmagnesium chloride instead of 3-(bis(trimethylsilyl)amino)phenylmagnesium chloride), platinum(IV)oxide (10 mg), 1N hydrochloric acid (0.5 mL) and dimethylformamide (5 mL) was stirred at room temperature for 6 hours. The reaction mixture was filtrated through Celite. The filtrate was concentrated. The residue was diluted with ethyl acetate. The diluted solution was washed with a saturated aqueous sodium hydrogen carbonate solution and brine sequentially, dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from ethanol to give the compound of the present invention (42 mg) having the following physical data. Moreover, the compound was converted to a corresponding salt thereof by conventional method.

reactant | 8-phenylpyrido[2,3-d]pyridazin-5(6H)-one | C1(=CC=CC=C1)C1=NNC(C2=C1N=CC=C2)=O | C13H9N3O
reactant | furo[3,4-b]pyridine-5,7-dione | N1=C2C(=CC=C1)C(OC2=O)=O | C7H3NO3
reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | hydrochloric acid | 1N, 0.5 mL | Cl | ClH
catalyst | platinum(IV)oxide | 10 mg | [Pt](=O)=O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 8-phenyl-2,3,4,6-tetrahydropyrido[2,3-d]pyridazin-5(1H)-one | C1(=CC=CC=C1)C1=NNC(C2=C1NCCC2)=O | C13H13N3O
